US07569337B2
3-(6-Chloro-imidazo[1,2-a]pyridin-2-yl)-8-(2-fluoro-ethyl)-5,6,7,8-tetrahydro-1-oxa-8-aza-anthracen-2-one
200 mg (0.896 mmol) 1-(2-Fluoro-ethyl)-7-hydroxy-1,2,3,4-tetrahydro-quinoline-6-carbaldehyde and 201 mg (1 eq.) (6-chloro-imidazo[1,2-a]pyridin-2-yl)-acetic acid methyl ester in 6 mL benzene and 3 mL acetonitrile are treated with 0.177 mL (2 eq.) piperidine and refluxed for 18 h. The reaction mixture is allowed to reach room temperature and the precipitate filtered, washed with acetonitrile and dried under high vacuum to yield 240 mg (67%) of desired product as a yellow powder.

reactant | 1-(2-Fluoro-ethyl)-7-hydroxy-1,2,3,4-tetrahydro-quinoline-6-carbaldehyde | 0.896 mmol, 200 mg | FCCN1CCCC2=CC(=C(C=C12)O)C=O | C12H14FNO2
reactant | (6-chloro-imidazo[1,2-a]pyridin-2-yl)-acetic acid methyl ester | 201 mg, 1 eq. | COC(CC=1N=C2N(C=C(C=C2)Cl)C1)=O | C10H9ClN2O2
reactant | piperidine | 0.177 mL, 2 eq. | N1CCCCC1 | C5H11N
solvent | benzene | 6 mL | C1=CC=CC=C1 | C6H6
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 3-(6-Chloro-imidazo[1,2-a]pyridin-2-yl)-8-(2-fluoro-ethyl)-5,6,7,8-tetrahydro-1-oxa-8-aza-anthracen-2-one | 240 mg, 67% | ClC=1C=CC=2N(C1)C=C(N2)C=2C(OC1=CC=3N(CCCC3C=C1C2)CCF)=O | C21H17ClFN3O2
